* ISO7710
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by: Texas Instruments Inc.
* Part: ISO7710/ISO7710-Q1
* Date: 6/4/2021
* Model Type: TRANSIENT
* Simulator: PSpice 
* Simulator Version: 17.4-2021(x64) 
* Datasheet: SLLSER9C –NOVEMBER 2016–REVISED APRIL 2020
* 
* Model Version: 1.00
*
*****************************************************************************
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
*POWER SUPPLIES UVLO+/- 
*INPUT VIH/VIL
*INPUT CAPACITANCE
*OUTPUT RISE/FALL TIME
*OUTPUT HIGH IMPEDANCE WHEN DISABLED
*PROPAGATION DELAY
*HIGH VOLTAGE PERFORMANCE IS NOT MODELED
*********************************************************
.model Dbreak D
.SUBCKT ISO7710 VCC1 IN GND1 VCC2 OUT GND2
XU1 VCC1 GND1 1 2 VCC1_INT POWER
XU2 VCC2 GND2 3 4 VCC2_INT POWER
XU3 IN DEL_IN 5 6 VCC1_INT GND1 7 INPUT
XU4 DEL_IN DEL_OUT 8 DELAY
XU5 VCC2 DEL_OUT VCC2_INT GND2 OUT 9 10 OUTPUT
.ENDS

.SUBCKT INPUT IN OUT INB_INT INT VCC VSS THRES
E_ABM21         OUT 0 VALUE { IF(V(INT) > 0.51 , 5 , 0)    }
E_E20         INB_INT 0 N16766925 VSS 1
R_R10         N16766925 IN  985 TC=0,0
E_ABM3         INT 0 VALUE { if ( V(INB_INT) > V(THRES), 1, 0 )    }
D_U1         IN VCC Dbreak
D_U2         VSS IN Dbreak
R_R11         VCC N16766925  1.5MEG TC=0,0
E_ABM22         THRES 0 VALUE { if ( V(INT) < 0.5, (V(VCC)-V(VSS))*0.6, (V(VCC)-V(VSS))*0.4 )}
C_C1         VSS N16766925  2p  TC=0,0

.ENDS

.SUBCKT POWER VCC VSS VCC_INT2 HYST VCC_OUT
E_ABM1         VCC_INT2 0 VALUE { if ( V(VCC_INT) > V(HYST), 1 , 0 )    }
V_V1         N16769409 0 2
E_E1         HYST N16769409 VCC_INT2 0 -0.2
E_E21         VCC_INT 0 VCC VSS 1
E_ABM2         VCC_OUT 0 VALUE { if ( V(VCC_INT2) > 0.5,  V(VCC) , 0 )    }
.ENDS

.SUBCKT DELAY IN_DEL OUT_DEL IN_OK
R_R5         0 IN_OK  1K TC=0,0
E_E8         OUT_DEL 0 IN_OK 0 1
T_T2         IN_DEL 0 IN_OK 0 Z0=1K TD=9.5n
.ENDS

.SUBCKT OUTPUT EN INPUT VCC VSS OUT TOPA BOTA
E_ABM6         DRVB 0 VALUE { IF(V(N16774625) > (V(VCC)-V(VSS))/2+V(VSS), V(INPUT),-10)}
R_R45         N16771405 VCC  50 TC=0,0
R_R51         N16771631 OUT  50 TC=0,0
X_S2    BOTA 0 N16771631 VSS SCHEMATIC3_S2
X_S1    TOPA 0 N16771405 OUT SCHEMATIC3_S1
E_ABM7         TOPA 0 VALUE { if ( V(DRVB) >2.5, 1 , 0 )    }
E_ABM8         N16777893 0 VALUE { if ( V(DRVB) <2.45 & V(DRVB) >-5 , 1, 0 )}
D_U1         OUT VCC Dbreak
D_U4         VSS EN Dbreak
D_U2         VSS OUT Dbreak
R_R11         VCC N16774625  2MEG TC=0,0
D_U3         EN VCC Dbreak
R_R10         N16774625 EN  1970 TC=0,0
C_C1         VSS OUT  6.34601348517066E-13  TC=0,0
R_R52         N16776225 N16776248  5MEG TC=0,0
C_C2         N16776248 VSS  1f  TC=0,0
E_ABM9         HIGHI 0 VALUE { if ( V(DRVB) < -5, 1, 0 )    }
X_S3    HIGHI 0 N16771631 N16776225 SCHEMATIC3_S3
R_R54         N16777893 BOTA  1 TC=0,0
C_C3         0 BOTA  2.60576689141951E-10  TC=0,0
.ENDS

.subckt SCHEMATIC3_S2 1 2 3 4
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=5e6 Ron=0.01 Voff=0.8V Von=1.0V
.ends SCHEMATIC3_S2

.subckt SCHEMATIC3_S1 1 2 3 4
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=5e6 Ron=0.01 Voff=0.0V Von=1.0V
.ends SCHEMATIC3_S1

.subckt SCHEMATIC3_S3 1 2 3 4
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=5e6 Ron=0.01 Voff=0.0V Von=1.0V
.ends SCHEMATIC3_S3


